US04542142
STEP A: Tert.-butyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(2,2-dichloroethoxy)-1-propenyl]-cyclopropane-carboxylate
Using the procedure of Step F of Example 9, 4.8 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-hydroxy-3-oxo-1-propenyl]-cyclopropane-carboxylate and 2 ml of 2,2-dichloroethanol were reacted to obtain after elution with a 9-1 mixture of cyclohexane-ethyl acetate 5.6 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(2,2-dichloroethoxy)-1-propenyl]-cyclopropane-carboxylate.

reactant | tert.-butyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-hydroxy-3-oxo-1-propenyl]-cyclopropane-carboxylate | 4.8 g | CC1([C@@H]([C@@H]1\C=C/C(=O)O)C(=O)OC(C)(C)C)C | C13H20O4
reactant | 2,2-dichloroethanol | 2 ml | ClC(CO)Cl | C2H4Cl2O
product | Tert.-butyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(2,2-dichloroethoxy)-1-propenyl]-cyclopropane-carboxylate | CC1([C@@H]([C@@H]1\C=C/C(OCC(Cl)Cl)=O)C(=O)OC(C)(C)C)C | C15H22Cl2O4
